US06194578B1
A. 2-(4-Fluoro-benzyl)-piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester
To a stirred solution of piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester (10.5 g, 27.8 mmol), prepared as described by Bigge et al. (Tetrahedron Let. 1989, 30, 5193), in tetrahydrofuran (200 mL) under a nitrogen atmosphere was added N,N-dimethylformamide (30 mL). The reaction was cooled to about −78° C., and a 0.5 M solution of potassium bis(trimethylsilyl)amide in toluene (83 mL, 42 mmol) was added. The reaction was stirred at about −78° C. for about 1 hour, and then 4-fluorobenzyl bromide (5.2 mL, 42 mmol) was added. The reaction was stirred for about 1 hour more at about −78° C., then warmed to room temperature and stirred overnight. The reaction was quenched with saturated sodium bicarbonate solution, and the mixture was extracted three times with ethyl acetate. The combined organic layers were extracted twice with water, brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give the crude product as a yellow oil. Purification by silica gel chromatography using 0-20% ethyl acetate/hexanes as eluent afforded the title compound of part 1-A (8.54 g, 63%) as a colorless oil: +APcI MS (M−Boc+H)+ 387; 1H NMR=400 MHz (CDCL3) δ: 7.45-7.30 (arom, br s, 5H), 7.00-6.80 (arom, br m, 4H), 5.35-5.05 (br m, 2H), 2.53 (br t, 1H), 1.40 (Boc, s, 9H).

reactant | piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester | 27.8 mmol, 10.5 g | COC(=O)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C19H26N2O6
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 42 mmol, 83 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-fluorobenzyl bromide | 42 mmol, 5.2 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-(4-Fluoro-benzyl)-piperazine-1,2,4-tricarboxylic acid 1-benzyl ester 4-tert-butyl ester 2-methyl ester | COC(=O)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)F | C26H31FN2O6
